US06686390B2
2-Chlorothioanisole was prepared in 89% yield from commercially available 2-chlorothiophenol (4.0 g, 27.6 mmol) using methyl iodide (4.66 g, 32.81 mmol) according to the procedure described in preparation 1.

reactant | 2-chlorothiophenol | 27.6 mmol, 4.0 g | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | methyl iodide | 32.81 mmol, 4.66 g | CI | CH3I
product | 2-Chlorothioanisole | 89% yield | ClC1=C(C=CC=C1)SC | C7H7ClS
